US07572919B2
1-(2-Hydroxy-4-methoxyphenyl)-2-phenylethanone (2a).
Using the previous procedure and starting from 1-(2,4-dihydroxyphenyl)-2-phenylethanone (7.08 g, 31.0 mmol) and methanol (1.32 mL, 32.55 mmol), 6.60 g (88%) of the title compound was obtained as a white solid: mp 87-88° C. (lit. 92° C.); IR (KBr) 1635, 1620, 1589, 1437, 1350, 1291, 1230, 1206, 1127, 1021, 958, 802, 739, 729, 551 cm−1; 1H NMR (400 MHz, CDCl3) δ 12.71 (br s, 1H), 7.74 (d, J=8.7 Hz, 1H), 7.31-7.34 (m, 2H), 7.23-7.26 (m, 3H), 6.40-6.44 (m, 2H), 4.20 (s, 2H), 3.81 (s, 3H); 13C NMR (100 MHz, CDCl3) δ 202.38, 166.61. 166.30, 134.82, 132.47, 129.76, 129.16, 127.50, 113.58, 108,27, 101.44, 56.00, 45.27.

reactant | 1-(2,4-dihydroxyphenyl)-2-phenylethanone | 31.0 mmol, 7.08 g | OC1=C(C=CC(=C1)O)C(CC1=CC=CC=C1)=O | C14H12O3
reactant | methanol | 32.55 mmol, 1.32 mL | CO | CH4O
product | 1-(2-Hydroxy-4-methoxyphenyl)-2-phenylethanone | 6.60 g, 88% | OC1=C(C=CC(=C1)OC)C(CC1=CC=CC=C1)=O | C15H14O3
